US05498630
2-Fluorobenzoyl chloride (2 g, 12.6 mmol) and 70% aq ethyl amine (1.78 g, 27.7 mmol) were combined in CH2Cl2 according to General Method E1, and kugelrohr distilled to give 1.85 g of N-ethyl-2-fluorobenzamide as a colorless oil, an 87% yield.

reactant | 2-Fluorobenzoyl chloride | 12.6 mmol, 2 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | ethyl amine | 27.7 mmol, 1.78 g | C(C)N | C2H7N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-ethyl-2-fluorobenzamide | 1.85 g, 87% yield | C(C)NC(C1=C(C=CC=C1)F)=O | C9H10FNO
